US07262185B2
To 5-hydroxymethyl-1-isopropylimidazole (4.5 g), thionyl chloride (20 ml) was added by portions at 0° C., and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature. The solvent was distilled off under reduced pressure and the obtained residue was dissolved in methanol and the solvent was distilled off again under reduced pressure. The obtained solid was recrystallized from ethyl acetate, to give 5-chloromethyl-1-isopropylimidazole hydrochloride (6.2 g) as colorless crystals.

reactant | 5-hydroxymethyl-1-isopropylimidazole | 4.5 g | OCC1=CN=CN1C(C)C | C7H12N2O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-1-isopropylimidazole hydrochloride | 6.2 g | Cl.ClCC1=CN=CN1C(C)C | InChI=1S/C7H11ClN2.ClH/c1-6(2)10-5-9-4-7(10)3-8;/h4-6H,3H2,1-2H3;1H
